US07452901B2
{1-Cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-3-methyl-pent-3-enyl}-phosphonic acid diethyl ester
To a solution of diethyl cyanomethylphosphonate (241 mg, 1.38 mmol) in THF (1 mL) was added a THF solution of sodium bis(trimethysilyl)amide (1.0 M, 1.13 mL, 1.15 mmol). After stirring for 30 minutes, the solution was added dropwise to a solution of 6-(4-bromo-3-methyl-but-2-enyl)-7-hydroxy-5-methoxy-4-methyl-3H-isobenzofuran-1-one (100 mg, 0.23 mmol) in THF (1 mL). The resulting mixture was allowed to stir at room temperature for one hour before saturated aqueous ammonium chloride was added. The reaction mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to dryness. The residue was purified by silica gel column chromatography, affording 110 mg (90%) of the desired product. 1H NMR (300 MHz, CDCl3) δ 0.04 (s, 9H), 1.24 (dd, J=7, 8 Hz, 2H), 1.36 (t, 6H), 1.86 (s, 3H), 2.17 (s, 3H), 2.43-2.57 (m, 2H), 3.04-3.17 (m, 1H), 3.47 (d, J=7.2 Hz, 2H), 3.79 (s, 3H), 4.12-4.37 (m, 6H), 5.13 (s, 2H), 5.44 (t, J=7.2 Hz, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 18.18 ppm; MS (m/z) 560 [M+Na]+.

reactant | diethyl cyanomethylphosphonate | 1.38 mmol, 241 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium bis(trimethysilyl)amide | 1.15 mmol, 1.0 M, 1.13 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 6-(4-bromo-3-methyl-but-2-enyl)-7-hydroxy-5-methoxy-4-methyl-3H-isobenzofuran-1-one | 0.23 mmol, 100 mg | BrCC(=CCC1=C(C(=C2COC(C2=C1O)=O)C)OC)C | C15H17BrO4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | {1-Cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-3-methyl-pent-3-enyl}-phosphonic acid diethyl ester | 110 mg, 90% | C(C)OP(OCC)(=O)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)C#N | C26H40NO7PSi
